US07645789B2
To a solution of 2-(3,3-dimethylbut-1-ynyl)-5-fluoro-4-nitroaniline (4.2 g, 17.8 mmol) in dichloromethane (50 mL) and Et3N (10.3 mL, 71.2 mmol) was added butyryl chloride (1.9 g, 17.8 mmol) at 0° C. The mixture was stirred at room temperature for 1 h and then poured into water. The aqueous phase was separated and the organic layer was washed with water (50 mL×2) and brine (100 mL), dried over Na2SO4 and concentrated under reduced pressure to dryness. The residue was washed with ether to give N-(2-(3,3-dimethylbut-1-ynyl)-5-fluoro-4-nitrophenyl)butyramide (3.5 g, 67%), which was used in the next step without further purification.

reactant | 2-(3,3-dimethylbut-1-ynyl)-5-fluoro-4-nitroaniline | 17.8 mmol, 4.2 g | CC(C#CC1=C(N)C=C(C(=C1)[N+](=O)[O-])F)(C)C | C12H13FN2O2
reactant | Et3N | 71.2 mmol, 10.3 mL | CCN(CC)CC | C6H15N
reactant | butyryl chloride | 17.8 mmol, 1.9 g | C(CCC)(=O)Cl | C4H7ClO
reactant | water | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(2-(3,3-dimethylbut-1-ynyl)-5-fluoro-4-nitrophenyl)butyramide | 3.5 g, 67% | CC(C#CC1=C(C=C(C(=C1)[N+](=O)[O-])F)NC(CCC)=O)(C)C | C16H19FN2O3
